US09376449B2
A mixed solution of ethyl 5-methoxy-3-(2-nitroethyl)-1H-indole-2-carboxylate (500 mg), tetrahydrofuran (40.0 mL), and acetic anhydride (2.00 mL) was pumped through Raney nickel cartridge, using H-cube (registered trademark) (ThalesNano Inc.) apparatus (catalyst cartridge: CatCart (registered trademark) (ThalesNano Inc.) hydrogen pressure: 60 bar, reaction temperature: 60° C., flow rate: 1 mL/s, solution concentration: 0.05 M). The obtained mixture was concentrated under reduced pressure and the obtained residue was washed with a mixed solvent of hexane:ethyl acetate=2:1 to obtain ethyl 3-(2-acetamidoethyl)-5-methoxy-1H-indole-2-carboxylate (450 mg) as a white solid.

reactant | ethyl 5-methoxy-3-(2-nitroethyl)-1H-indole-2-carboxylate | 500 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)OCC)CC[N+](=O)[O-] | C14H16N2O5
reactant | acetic anhydride | 2.00 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 40.0 mL | O1CCCC1 | C4H8O
product | ethyl 3-(2-acetamidoethyl)-5-methoxy-1H-indole-2-carboxylate | 450 mg | C(C)(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)OCC | C16H20N2O4
